US05880140
Step A: 2-Trifluoromethanesulfonyloxy-5-pyridine carboxylic acid
To a solution of 2-hydroxy 5-pyridine carboxylic acid (185 mg, 1.33 mmol) and diisopropylethylamine (0.464 mL, 2.66 mmol) in dichloromethane (7 mL) at -78° C. is added trifluoromethanesulfonic anhydride (0.224 mL, 1.33 mmol) and the mixture stirred at -78° C. for 1 hour and then at ambient temperature for 1 hour. The reaction is diluted with water and extracted with CH2Cl2, and the organic extract is dried, (MgSO4) and the solvent is evaporated in vacuo. The residue is purified by chromatography to afford the title compound.

reactant | 2-hydroxy 5-pyridine carboxylic acid | 1.33 mmol, 185 mg | OC1=NC=C(C=C1)C(=O)O | C6H5NO3
reactant | diisopropylethylamine | 2.66 mmol, 0.464 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 1.33 mmol, 0.224 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-Trifluoromethanesulfonyloxy-5-pyridine carboxylic acid | FC(S(=O)(=O)OC1=NC=C(C=C1)C(=O)O)(F)F | C7H4F3NO5S
